US09403813B2
NaH 60% dispersion in mineral oil (100 mg, 2.5 mmol) was added to a rt solution of cyclobutanol (0.13 mL, 1.6 mmol) in DMF (1.5 mL). After stirring for 1 h, 3-cyano-2-fluoropyridine (150 mg, 1.23 mmol) was added and the brown suspension was stirred at rt for 1 h. The rxn mixture was quenched with water and extracted with DCM (2×). The combined org. layers were dried (MgSO4), filtered and concentrated in vacuo to yield 2-cyclobutoxynicotinonitrile as an orange oil. LC-MS B: tR=0.76 min; [M+H]+=175.21. 1H NMR (DMSO) δH: 8.43 (m, 1H), 8.26 (dd, J1=7.6 Hz, J2=1.9 Hz, 1H), 7.17 (dd, J1=7.6 Hz, J2=5.0 Hz, 1H), 5.25 (m, 1H), 2.43 (m, 2H), 2.13 (m, 2H), 1.82 (m, 1H), 1.66 (m, 1H).

reactant | NaH | [H-].[Na+]
reactant | cyclobutanol | 1.6 mmol, 0.13 mL | C1(CCC1)O | C4H8O
reactant | 3-cyano-2-fluoropyridine | 1.23 mmol, 150 mg | C(#N)C=1C(=NC=CC1)F | C6H3FN2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-cyclobutoxynicotinonitrile | C1(CCC1)OC1=C(C#N)C=CC=N1 | C10H10N2O
